US06087368
2,4-Dinitro-5-chlorobenzamide
2,4-Dinitro-5-chlorobenzoic acid (7.00 g, 28.4 mmol) was suspended in 40 mL thionyl chloride containing 3 drops of DMF. The suspension was warmed to reflux for four hours. After cooling to room temperature, solvent was removed by rotary evaporation leaving a golden yellow liquid. This was diluted with 30 mL acetone and added dropwise over 20 minutes to a 0° C. solution of 20 mL concentrated ammonium hydroxide. The reaction was stirred at 0° C. for 30 minutes, then poured into 250 g of ice. The yellow orange precipitate was collected by filtration and washed well with water. The solid was dried first by water aspirator then under high vacuum to furnish 5.9 g (24 mmol, 84% yield) of product. NMR (400 MHz; acetone-d6): δ 8.75, s 1H, 8.25, s 1H; mp 201-203° C.

reactant | 2,4-Dinitro-5-chlorobenzoic acid | 28.4 mmol, 7.00 g | [N+](=O)([O-])C1=C(C(=O)O)C=C(C(=C1)[N+](=O)[O-])Cl | C7H3ClN2O6
reactant | DMF | CN(C)C=O | C3H7NO
reactant | ammonium hydroxide | 20 mL | [OH-].[NH4+]
catalyst | thionyl chloride | 40 mL | S(=O)(Cl)Cl | Cl2OS
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 2,4-Dinitro-5-chlorobenzamide | 24 mmol, 5.9 g, 84% yield | [N+](=O)([O-])C1=C(C(=O)N)C=C(C(=C1)[N+](=O)[O-])Cl | C7H4ClN3O5
